US05234944
At 50° C. and over 5 minutes, 50 ml of piperidine and 50 ml of water were added to 21.25 g of 2,3-epoxy-indane and the mixture was maintained for 2 hours with stirring at this temperature. The solution was then cooled to 20° C. and was saturated with sodium chloride. 5 ml of sodium hydroxide were added, followed by extraction with ether. The extracts were concentrated to dryness under reduced pressure and the residue was taken up in 200 ml of ethyl acetate at 40° C., filtered, dried, and the solvents were eliminated under reduced pressure. The residue was taken up in isopropyl ether, filtered and taken to dryness to obtain 26.82 g of crude product which was purified by chromatography over silica, (eluent: ethyl acetate with 1% of triethylamine) to obtain [trans (±)] 2,3-dihydro-1-piperidinyl-1H-inden-2-ol melting at about 82° C.

reactant | piperidine | 50 ml | N1CCCCC1 | C5H11N
reactant | 2,3-epoxy-indane | 21.25 g | O1C2CC3=CC=CC=C3C21 | C9H8O
reactant | sodium chloride | [Cl-].[Na+]
reactant | sodium hydroxide | 5 ml | [OH-].[Na+]
solvent | water | 50 ml | O | H2O
product | 2,3-dihydro-1-piperidinyl-1H-inden-2-ol | N1(CCCCC1)C1C(CC2=CC=CC=C12)O | C14H19NO
